US07625905B2
1-(3-{2-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-ethyl}-3-phenyl-pyrrolidin-1-yl)-ethanone (III-3)
The following were prepared analogously from (4,6-dimethyl-pyrimidin-5-yl)-{5-[2-(3-phenyl-pyrrolidin-3-yl)-ethyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl}-methanone using the acid chloride in parenthesis in place of acetic anhydride in the final step: III-1 (cyclopentanecarbonyl chloride), III-2 (cyclopentyl-acetyl chloride) and III-4 (pivaloyl chloride).

reactant | (4,6-dimethyl-pyrimidin-5-yl)-{5-[2-(3-phenyl-pyrrolidin-3-yl)-ethyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl}-methanone | CC1=NC=NC(=C1C(=O)N1CC2CN(CC2C1)CCC1(CNCC1)C1=CC=CC=C1)C | C25H33N5O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | cyclopentyl-acetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 1-(3-{2-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-ethyl}-3-phenyl-pyrrolidin-1-yl)-ethanone | CC1=NC=NC(=C1C(=O)N1CC2C(C1)CN(C2)CCC2(CN(CC2)C(C)=O)C2=CC=CC=C2)C | C27H35N5O2
